US09126980B2
Step 1: Preparation of (S)—N,N-dibutyl-1-(2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide
To a solution of (S)—N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide (9.0 g, 16.4 mmol) in DCM (150 mL) were added TBDMS-chloride (2.98 g, 19.7 mmol), imidazole (2.23 g, 32.9 mmol) followed by stirring at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc (300 mL×2), twice. The combined organic layers were washed with water (300 mL), brine (100 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as a liquid 7 g (64%). Rf=0.74 (25% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 8.60-8.20 (m, 2H), 8.05-7.80 (m, 1H), 7.40-6.80 (m, 4H), 6.60-6.30 (m, 1H), 5.10-3.84 (m, 4H), 3.82-2.40 (m, 7H), 2.40-2.20 (m, 3H), 1.60-0.55 (m, 23H), 0.05-−0.40 (m, 6H); LC-MS: m/z 662.4 (M+H).

reactant | (S)—N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide | 16.4 mmol, 9.0 g | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C30H37N5O5
reactant | TBDMS-chloride | 19.7 mmol, 2.98 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 32.9 mmol, 2.23 g | N1C=NC=C1 | C3H4N2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (S)—N,N-dibutyl-1-(2-(3-(((tert-butyldimethylsilyl)oxy)methyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide | 7 g, 64% | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CC2=CC=CC=C2C[C@H]1CO[Si](C)(C)C(C)(C)C)CCCC | C36H51N5O5Si
